US04192669
To 17.11 g. (0.05 mole) of 2-[[4-[4-(trifluoromethoxy)phenoxy]phenoxy]]propanoic acid is added 1 ml. of DMF, followed by 50 ml. of thionyl chloride. After evolution of HCl ceases, the thionyl chloride excess is removed in vacuum. The residue is extracted with methylene chloride and the methylene chloride solution washed with ice water, dried, and the solvent removed, leaving 2-[[4-[4-(trifluoromethoxy)phenoxy]phenoxy]]propanoyl chloride.

reactant | 2-[[4-[4-(trifluoromethoxy)phenoxy]phenoxy]]propanoic acid | 0.05 mole | FC(OC1=CC=C(OC2=CC=C(OC(C(=O)O)C)C=C2)C=C1)(F)F | C16H13F3O5
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-[[4-[4-(trifluoromethoxy)phenoxy]phenoxy]]propanoyl chloride | FC(OC1=CC=C(OC2=CC=C(OC(C(=O)Cl)C)C=C2)C=C1)(F)F | C16H12ClF3O4
